US04327026
A solution of 2.5 g (7.34 mmol) of 5-(o-fluorophenyl)-1,3-dihydro-7-(1-hydroxyethyl)-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one in 10 ml of acetic acid anhydride and 10 ml of pyridine is left to stand at room temperature for 24 hours and then concentrated in vacuo. The residue is taken up in chloroform and the organic phase is washed successively with 2 N hydrochloric acid, 2 N sodium bicarbonate solution and water, dried and evaporated. The residue is chromatographed on 50 g of silica gel using chloroform as the elution agent. There is obtained 1-[5-(o-fluorophenyl)-2,3-dihydro-1,3,3-trimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]ethyl acetate as an oil.

reactant | 5-(o-fluorophenyl)-1,3-dihydro-7-(1-hydroxyethyl)-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | 7.34 mmol, 2.5 g | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=C(C=C2)C(C)O)C)=O)(C)C | C20H21FN2O2
reactant | acetic acid anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-[5-(o-fluorophenyl)-2,3-dihydro-1,3,3-trimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]ethyl acetate | C(C)(=O)OC(C)C=1C=CC2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)F)C1 | C22H23FN2O3
